US04052395
6-(3-bromo-5-chloro-4-methylphenyl)-3(2H)pyridazinone
3 In acetic acid heated to 70° C. was suspended 6.3 g. of 6-(3-bromo-5-chloro-4-methylphenyl)-4,5-dihydro-3(2H)pyridazinone, and to this suspension was added dropwise with stirring 3.7 g. of bromine. After completion of the addition, the reaction mixture was treated in the manner as in Example 1 - 3 to give 6.2 g. of the desired product of m.p. 247° - 250° C.

reactant | 6-(3-bromo-5-chloro-4-methylphenyl)-4,5-dihydro-3(2H)pyridazinone | BrC=1C=C(C=C(C1C)Cl)C=1CCC(NN1)=O | C11H10BrClN2O
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(3-bromo-5-chloro-4-methylphenyl)-3(2H)pyridazinone | BrC=1C=C(C=C(C1C)Cl)C=1C=CC(NN1)=O | C11H8BrClN2O
